US09278985B2
Preparation 14: Methyl 4-amino-3-chloro-5-fluoro-6-(trimethylstannyl)picolinate (Head J)
Methyl 4-amino-6-bromo-3-chloro-5-fluoropicolinate (500 mg, 1.8 mmol), 1,1,1,2,2,2-hexamethyldistannane (580 mg, 1.8 mmol) and bis(triphenylphosphine)-palladium(II) chloride (120 mg, 0.18 mmol) were combined in 6 mL dry dioxane, sparged with a stream of nitrogen for 10 min and then heated to 80° C. for 2 h. The cooled mixture was stirred with 25 mL ethyl acetate and 25 mL saturated NaCl for 15 min. The organic phase was separated, filtered through diatomaceous earth, dried (Na2SO4) and evaporated. The residue was taken up in 4 mL ethyl acetate, stirred and treated in portions with 15 mL hexane. The milky white solution was decanted from any solids produced, filtered through glass wool and evaporated to give the title compound as an off-white solid (660 mg, 100%): 1H NMR (400 MHz, CDCl3) δ 4.63 (d, J=29.1 Hz, 1H), 3.97 (s, 2H), 0.39 (s, 4H); 19F NMR (376 MHz, CDCl3) δ −130.28; EIMS m/z 366.

reactant | Methyl 4-amino-6-bromo-3-chloro-5-fluoropicolinate | 1.8 mmol, 500 mg | NC1=C(C(=NC(=C1F)Br)C(=O)OC)Cl | C7H5BrClFN2O2
reactant | 1,1,1,2,2,2-hexamethyldistannane | 1.8 mmol, 580 mg | C[Sn]([Sn](C)(C)C)(C)C
solvent | dioxane | 6 mL | O1CCOCC1 | C4H8O2
catalyst | bis(triphenylphosphine)-palladium(II) chloride | 0.18 mmol, 120 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | Methyl 4-amino-3-chloro-5-fluoro-6-(trimethylstannyl)picolinate | 660 mg, 100% | NC1=C(C(=NC(=C1F)[Sn](C)(C)C)C(=O)OC)Cl | InChI=1S/C7H5ClFN2O2.3CH3.Sn/c1-13-7(12)6-4(8)5(10)3(9)2-11-6;;;;/h1H3,(H2,10,11);3*1H3;
